US04160837
83.1 g (1 mol) of 1,2,5,6-tetrahydropyridine are dissolved in 300 ml of benzene. 83 g of sodium bicarbonate are introduced into this solution and the mixture is cooled to 0° under a nitrogen atmosphere and, at this temperature, treated dropwise in the course of one hour with 332 ml of a 50% strength solution of benzyl chloroformate in toluene (1 mol). The reaction mixture is stirred at 0° for a further 21/2 hours and then poured into 1.5 liters of ice-water. The benzene phase is separated off and the aqueous phase is extracted by shaking 3 times with 250 ml of methylene chloride; subsequently the combined organic phases are washed with 1 N hydrochloric acid and then with a saturated solution of sodium chloride, dried over sodium sulphate and evaporated under a water pump vacuum. The oily residue is distilled under a high vacuum and gives 1-carbobenzyloxy-1,2,5,6-tetrahydropyridine with a boiling point of 102°-113°/0.01 mm Hg.

reactant | 1,2,5,6-tetrahydropyridine | 1 mol, 83.1 g | N1CC=CCC1 | C5H9N
reactant | sodium bicarbonate | 83 g | C([O-])(O)=O.[Na+]
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | toluene | 1 mol | C1(=CC=CC=C1)C | C7H8
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 1-carbobenzyloxy-1,2,5,6-tetrahydropyridine | C(=O)(OCC1=CC=CC=C1)N1CC=CCC1 | C13H15NO2
